US04487957
A solution of 0.956 g of tert.-butyl 4-methyl-3-formyl-pent-3-enoate in 8.7 ml of methylene chloride was added at 0° to 5° C. to a mixture of 15.5 ml of trifluoroacetic acid and 20 ml of methylene chloride and the mixture was stirred at 5° C. for 3 hours. Cyclohexane was added to the mixture which was then evaporated to dryness under reduced pressure. The residue was empasted with isopropyl ether to obtain 0.444 g of 4-methyl-3-formyl-pent-3-en-1-oic acid melting at 102° C. The mother liquors were chromatographed over silica gel and elution with a 1-1-1 benzene-acetone-chloroform mixture yielded 40 mg of 4-methyl-3-formyl-pent-3-en-1-oic acid melting at 102° C.

reactant | tert.-butyl 4-methyl-3-formyl-pent-3-enoate | 0.956 g | CC(=C(CC(=O)OC(C)(C)C)C=O)C | C11H18O3
reactant | trifluoroacetic acid | 15.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | Cyclohexane | C1CCCCC1 | C6H12
solvent | methylene chloride | 8.7 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-methyl-3-formyl-pent-3-en-1-oic acid | 0.444 g | CC(=C(CC(=O)O)C=O)C | C7H10O3
